US06265415B1
Synthesis of 2,3-dimethyl-8-(2-ethyl-6-methylbenzyloxy)imidazo[1,2-a]pyridine
2,3-Dimethyl-8-hydroxyimidazo[1,2-a]pyridine (0.8 g, 5 mmol), 2-ethyl-6-methylbenzyl chloride, sodium iodide (0.25 g, 1.7 mmol) and sodium carbonate (1.2 g, 11 mmol) were added to acetone (40 ml) and the mixture was refluxed for 5 h. The acetone was evaporated and the residue was solved in methylene chloride and washed with water. The organic solvent was dried and was evaporated under reduced pressure. The residue was purified twice by column chromatography on silica gel using (a) methylene chloride: ethylacetate(1:2), (b) methylene chloride:ethylacetate(2:1), as eluent to give the title compound. (0.02 g, 1.4%)

reactant | 2,3-Dimethyl-8-hydroxyimidazo[1,2-a]pyridine | 5 mmol, 0.8 g | CC=1N=C2N(C=CC=C2O)C1C | C9H10N2O
reactant | 2-ethyl-6-methylbenzyl chloride | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | sodium iodide | 1.7 mmol, 0.25 g | [I-].[Na+]
reactant | sodium carbonate | 11 mmol, 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(2-ethyl-6-methylbenzyloxy)imidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2OCC2=C(C=CC=C2C)CC)C1C | C19H22N2O
